US05225207
The procedure is as in Example 1, but starting from 2-acetylamino-2-cyano-bicyclo[3.2.1]octane (9 g), in the form of the mixture of the exo and endo racemates in a ratio of (8/1), in acetic acid (140 cc) and acetic anhydride (8.8 cc), in the presence of Adams platinum oxide (0.9 g); by chromatographing the residue from the evaporation on a column 5.5 cm in diameter containing silica gel (250 g), eluting with a mixture of ethyl acetate and ethanol (75/25 by volume) and collecting fractions of 100 cc. The fractions between 1400 and 3100 cc are concentrated to dryness. 2-Acetylamino-2-acetylaminomethyl-bicyclo[3.2.1]octane (9.75 g) is thus obtained in the form of fine white crystals which melt at 92°-3° C.

reactant | 2-acetylamino-2-cyano-bicyclo[3.2.1]octane | 9 g | C(C)(=O)NC1(C2CCC(CC1)C2)C#N | C11H16N2O
reactant | acetic acid | 140 cc | C(C)(=O)O | C2H4O2
solvent | acetic anhydride | 8.8 cc | C(C)(=O)OC(C)=O | C4H6O3
catalyst | platinum oxide | 0.9 g | [Pt]=O
product | 2-Acetylamino-2-acetylaminomethyl-bicyclo[3.2.1]octane | 9.75 g | C(C)(=O)NC1(C2CCC(CC1)C2)CNC(C)=O | C13H22N2O2
